US08455646B2
Preparation of (5-methyl-thiophen-2-yl)-oxo-acetic acid methyl ester (I264)
To a suspension of aluminum trichloride (2.75 g, 20.6 mmol) and methyl 2-chloro-2-oxoacetate (1.90 mL, 20.7 mmol) in dry DCM (25 mL), cooled at 0° C. and under nitrogen atmosphere, is added 2-methylthiophene (1.00 mL, 10.33 mmol) dropwise. The reaction is stirred at RT for 15 hours. Then the mixture is cooled at 0° C. ice-water is slowly added and the organic phase is washed with aq. NaHCO3 and brine, dried over Na2SO4 and evaporated to obtain intermediate I266 as a brown oil (1.9 g, quantitative yield).

reactant | aluminum trichloride | 20.6 mmol, 2.75 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | methyl 2-chloro-2-oxoacetate | 20.7 mmol, 1.90 mL | ClC(C(=O)OC)=O | C3H3ClO3
reactant | 2-methylthiophene | 10.33 mmol, 1.00 mL | CC=1SC=CC1 | C5H6S
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | (5-methyl-thiophen-2-yl)-oxo-acetic acid methyl ester | 1.9 g, quantitative yield | COC(C(=O)C=1SC(=CC1)C)=O | C8H8O3S
